US06821977B2
N,N′-ditosyl-4-nitro-o-phenylenediamine
4-nitro-o-phenylenediamine (15.4 grams, 100 mmol) was dissolved in anhydrous pyridine (70 mL) at 45° C. p-Toluenesulfonyl chloride was added to the reaction mixture in 5 gram portions over the period of 30 minutes. The reaction was then heated to 100° C. for 4 hours. After cooling to room temperature, the mixture was poured into ice/water and this was extracted 3 times with methylene chloride. The combined organic portions were washed with water and brine and dried over anydrous sodium sulfate. Filtration and concentration afforded crude product, which was triturated with hot ethanol to give 32.5 grams of product as yellow powder (70%). M+462.

reactant | 4-nitro-o-phenylenediamine | 100 mmol, 15.4 grams | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | p-Toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | N,N′-ditosyl-4-nitro-o-phenylenediamine | 32.5 grams, 70% | S(=O)(=O)(C1=CC=C(C)C=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])NS(=O)(=O)C1=CC=C(C)C=C1 | C20H19N3O6S2
